US04524071
C. 5-(3-Phenylpropyl)-2-[[3-[3-[(1-piperidinyl) methyl]phenoxy]propyl]amino]-4(3H)-pyrimidinone
A mixture of 2-(methylthio)-5-(3-phenylpropyl)-4(3H)-pyrimidinone (0.52 g) and 3-[3-[(1-piperidinyl)methyl]phenoxy]propanamine (1.056 g) was heated at 140° for 4 h. The residue was chromatographed (silica/methanol-ethyl acetate 1:1) and the oily product titrated with light petroleum (b.p. 60°-80°) to give the title compound (0.18 g), m.p. 104°-108°.

reactant | 2-(methylthio)-5-(3-phenylpropyl)-4(3H)-pyrimidinone | 0.52 g | CSC1=NC=C(C(N1)=O)CCCC1=CC=CC=C1 | C14H16N2OS
reactant | 3-[3-[(1-piperidinyl)methyl]phenoxy]propanamine | 1.056 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
product | 5-(3-Phenylpropyl)-2-[[3-[3-[(1-piperidinyl) methyl]phenoxy]propyl]amino]-4(3H)-pyrimidinone | 0.18 g | C1(=CC=CC=C1)CCCC=1C(NC(=NC1)NCCCOC1=CC(=CC=C1)CN1CCCCC1)=O | C28H36N4O2
